US08304446B2
3-[(3-Amino-4-chloro-1H-indazol-1-yl)methyl]benzonitrile
To a suspension of ground potassium hydroxide (421 mg, 7.50 mmol) in anhydrous dimethyl sulfoxide (5 mL) at room temperature under nitrogen was added a solution of 4-chloro-1H-indazol-3-amine (for a preparation see Intermediate 40) (503 mg, 3.0 mmol) in anhydrous dimethyl sulfoxide (15 mL). After 30 minutes 3-cyanobenzyl bromide (Aldrich) (735 mg, 3.75 mmol) was added in one portion. The reaction mixture was stirred for 2 hours. The reaction mixture was poured into water (200 mL), forming a yellow/brown emulsion. This was extracted using chloroform (2×200 mL). The combined organic solutions were washed with water:brine (1:1) (200 mL), passed through a hydrophobic frit, and evaporated in-vacuo to yield a brown oil. The oil was applied to a 100 g silica SPE cartridge and purified by chromatography on Flashmaster II using a 0-100% ethyl acetate in cyclohexane gradient over 80 min. Fractions 32-34 were combined and the solvent was evaporated in-vacuo to yield the title compound as an off white solid (216 mg, 25%). LCMS (System B) RT=2.51 min, ES+ve m/z 283 (M+H)+.

reactant | potassium hydroxide | 7.50 mmol, 421 mg | [OH-].[K+]
reactant | 4-chloro-1H-indazol-3-amine | ClC1=C2C(=NNC2=CC=C1)N | C7H6ClN3
reactant | 3-cyanobenzyl bromide | 3.75 mmol, 735 mg | C(#N)C=1C=C(CBr)C=CC1 | C8H6BrN
reactant | water | 200 mL | O | H2O
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 15 mL | CS(=O)C | C2H6OS
product | 3-[(3-Amino-4-chloro-1H-indazol-1-yl)methyl]benzonitrile | NC1=NN(C2=CC=CC(=C12)Cl)CC=1C=C(C#N)C=CC1 | C15H11ClN4
